US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXIX)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (40.0 mg, 0.118 mmol) and 4-morpholin-4-yl-benzaldehyde (24.9 mg, 0.130 mmol) were reacted to produce 45 mg (75%) of the title compound. mp: 283-284° C., 1H NMR (300 MHz, DMSO-d6): 12.97 (s, 1H), 8.22 (s, 1H), 8.00 (d, J=8 Hz, 2H), 7.93 (s, 1H), 7.65 (s, 1H), 7.11 (s, 1H), 7.03 (d, J=8 Hz, 2H), 6.98 (d, J=8 Hz, 1H), 6.36 (br s, 1H), 6.33 (br s, 1H), 5.27 (t, J=8 Hz, 1H), 3.77 (br s, 4H), 2.88 (s, 1H), 2.77 (s, 1H), 2.62 (d, J=7 Hz, 1H), 2.26 (br s, 4H), 1.39 (d, J=8 Hz, 1H). MS: 509, 511 (M+H), HPLC: 2.31 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.118 mmol, 40.0 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-morpholin-4-yl-benzaldehyde | 0.130 mmol, 24.9 mg | N1(CCOCC1)C1=CC=C(C=O)C=C1 | C11H13NO2
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 45 mg, 75% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)N2CCOCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C24H25BrN6O2
